US07947696B2
106.2 mg of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) and 56 mg of N-methylmorpholine are added to a solution of 73.6 mg of 1H-indole-7-carboxylic acid and 67.9 mg of 1-hydroxybenzotriazole hydrate (HOBt) in 1 ml of DMF. The mixture is stirred at room temperature for 1 hour. 100 mg of “6” are then added, and the mixture is stirred for 16 hours. The mixture is stirred into 10 ml of water, the precipitated material is separated off and washed with water. The residue is boiled once with 10 ml of acetonitrile/water and dried, giving 132 mg of 2-amino-6-chloro-4-[3-(indol-7-ylcarbonylamino)phenyl]quinazoline (“A11”).

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 106.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 56 mg | CN1CCOCC1 | C5H11NO
reactant | 1H-indole-7-carboxylic acid | 73.6 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | 1-hydroxybenzotriazole hydrate | 67.9 mg | O.ON1N=NC2=C1C=CC=C2
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-amino-6-chloro-4-[3-(indol-7-ylcarbonylamino)phenyl]quinazoline | 132 mg | NC1=NC2=CC=C(C=C2C(=N1)C1=CC(=CC=C1)NC(=O)C=1C=CC=C2C=CNC12)Cl | C23H16ClN5O
